US06982348B2
To a solution of ethyl 3-(4-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (6 g, 16.3 mmol) in methanol (100 ml) was added sodium borohydride (640 mg, 16.9 mmol) under ice-cooling, and the mixture was stirred for 20 min. The reaction solution was poured into 1N hydrochloric acid (50 ml), and extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give ethyl (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate (5.1 g, 84%) as a colorless oil.

reactant | ethyl 3-(4-fluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 16.3 mmol, 6 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H16F4O3
reactant | sodium borohydride | 16.9 mmol, 640 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | ethyl (2RS,3SR)-3-(4-fluorophenyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 5.1 g, 84% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)O | C19H18F4O3
